US08013008B2
benzyl (2S,5R)-2,5-dimethyl-3-oxopyrrolidine-1-carboxylate
To a solution (20 mL) of benzyl (2S,3S,5R)-3-hydroxy-2,5-dimethylpyrrolidine-1-carboxylate (1.30 g) in acetonitrile were added tetrapropylammonium perruthenate (92 mg), 4-methylmorpholine N-oxide (1.22 g) and molecular sieves 4A powder (1.32 g), and the mixture was stirred at room temperature for 2 hr. The reaction mixture was concentrated, the residue was suspended in ethyl acetate and filtered through celite. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=30/1→1/1) to give the title compound as colorless oil (yield: 1.30 g, yield: 100%).

reactant | benzyl (2S,3S,5R)-3-hydroxy-2,5-dimethylpyrrolidine-1-carboxylate | 20 mL, 1.30 g | O[C@@H]1[C@@H](N([C@@H](C1)C)C(=O)OCC1=CC=CC=C1)C | C14H19NO3
reactant | 4-methylmorpholine N-oxide | 1.22 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | acetonitrile | C(C)#N | C2H3N
catalyst | tetrapropylammonium perruthenate | 92 mg | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | benzyl (2S,5R)-2,5-dimethyl-3-oxopyrrolidine-1-carboxylate | yield: 1.30 g, yield: 100% | C[C@@H]1N([C@@H](CC1=O)C)C(=O)OCC1=CC=CC=C1 | C14H17NO3
